US07074790B2
Ethyl 3-[(cyclopentylcarbonyl)amino]-2-oxopentanoate
1.6 g (8 mmol) 2-[(cyclopentylcarbonyl)amino]butanoic acid are suspended in 30 ml tetrahydrofuran and heated to reflux together with 1.91 g (24 mmol) pyridine and a bit of N,N-dimethylaminopyridine. While heating at reflux, 2.19 g (16 mmol) ethyl chloro(oxo)acetate are added dropwise. The reaction mixture is heated at reflux until no more evolution of gas can be observed. After cooling down to room temperature, the reaction mixture is added to ice water and the organic phase extracted with ethyl acetate. The dried organic phase is evaporated to dryness in vacuo, dissolved in ethanol and the solution directly used for the next reaction.

reactant | 2-[(cyclopentylcarbonyl)amino]butanoic acid | 8 mmol, 1.6 g | C1(CCCC1)C(=O)NC(C(=O)O)CC | C10H17NO3
reactant | pyridine | 24 mmol, 1.91 g | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloro(oxo)acetate | 16 mmol, 2.19 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Ethyl 3-[(cyclopentylcarbonyl)amino]-2-oxopentanoate | C1(CCCC1)C(=O)NC(C(C(=O)OCC)=O)CC | C13H21NO4
